* Dzwonek do drzwi

.model DMOD D (bv=500 is=1e-13 n=1.05 vj=0.7 php=0.7)
.model QMOD NPN level=2 bf=150

V1 n1 0 SIN(0 310 50 0 0 0)
*V2 n1 0 SIN(0 310 50 10 0 180)
R1 n1 n2 6.4k
D1 n2 n3 DMOD
R2 n3 n4 27
R3 n3 n5 47k
C1 n4 0 470uF IC=0V
R5 n5 n6 1k
C4 n6 0 15uF IC=0V
R4 n5 n9 1k
C2 n9 n8 35nF IC=0V
C3 n8 n10 0.15uF IC=0V
RD1 n10 n10a 0.1
Q1 n10a n5 0 QMOD
L1 n4 n10 300m IC=0A
L2 n8 n4  20m IC=0A

* Speaker circuit:
* L3 n11 n12 0.5H IC=0A
* R6 n11 n13 15
* L4 n13 n12 2H IC=0A
* RL4 n13 n12 0  $ removed L4 and replaced with 0 Ohm
* R7 n12 0 1G
* .IC V(n11)=0, V(n12)=0, V(n13)=0

* Speakcer circuit:
L3 n11 n12 100m IC=0A
RS1 n11 ns1 6.2
LS1 ns1 ns2 1.5m
CS1 ns2 n12 700u
LS2 ns2 n12 50m
RS2 ns2 n12 44
RS3 n12 0 1G
.IC V(n11)=0, V(n12)=0, V(ns2)=0
* RS1 n11 n12 30
* RS3 n12 0 1G

* Transformer setup
K1 L1 L2 1
K2 L2 L3 1
K3 L3 L1 1

.control
tran 22u 3s
wrdata dupa v(n11)
.endc

.end

